US06048868
1-Methylene-2-ethoxycarbonyl-6 -methoxy-1,2,3,4-tetra-hydro-β-carboline
To a solution of 10-methoxyharmalan in dichloro-methane is added triethylamine (1.5 eq) and the mixture is cooled to 0° C. A solution (1/5 v/v) of ethyl chloro-formate in dichloromethane is then added dropwise. The mixture is stirred at 0° C. until the starting material disappears (2 h). After evaporation of the solvent, the crude product is separated out on a chromatography plate (eluent: EtOAc/pet. ether; 50/50).

reactant | 10-methoxyharmalan | CC1=C2C(=C3C=C(C=CC3=N2)OC)CCN1 | C13H14N2O
reactant | triethylamine | 1.5 eq | C(C)N(CC)CC | C6H15N
reactant | ethyl chloro-formate | ClC(=O)OCC | C3H5ClO2
solvent | dichloro-methane | ClCCl | CH2Cl2
product | 1-Methylene-2-ethoxycarbonyl-6 -methoxy-1,2,3,4-tetra-hydro-β-carboline | C=C1N(CCC=2C3=CC(=CC=C3NC12)OC)C(=O)OCC | C16H18N2O3
